US06888029B2
Preparation of N-(2-nitrophenyl) indole (12)
A solution of Pd2(dba)3 [92 mg, 0.1 mmol (4.6 mg, 0.005 mmol, 2 mol % Pd per reaction)], ligand 1 (see FIG. 1) [168 mg, 0.4 mmol (8.4 mg, 0.02 mmol, 4 mol % per reaction)] and NaOt-Bu [40 mg, 0.4 mmol (2 mg, 0.02 mmol, 4 mol % per reaction)] were stirred in 10 mL DME (anhy). After 10 minutes, 0.5 mL of the solution was added via syringe to a test tube containing (under an Argon atmosphere) K3PO4 (148 mg, 0.7 mmol), 2-chloronitrobenzene (79 mg, 0.5 mmol), and indole (70 mg, 0.6 mmol). The test tube was capped (with a proper cap-no rubber septa) and heated at 100° C. for 18 hours. The reaction mixture was allowed to cool to r.t., diluted with ether and dodecane was added as an internal standard. The GC yield was calculated to be 3%.

reactant | NaOt-Bu | 0.4 mmol, 40 mg | CC(C)(C)[O-].[Na+]
reactant | K3PO4 | 0.7 mmol, 148 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-chloronitrobenzene | 0.5 mmol, 79 mg | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | indole | 0.6 mmol, 70 mg | N1C=CC2=CC=CC=C12 | C8H7N
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | ether | CCOCC | C4H10O
solvent | dodecane | CCCCCCCCCCCC | C12H26
catalyst | Pd2(dba)3 | 0.1 mmol, 92 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2-nitrophenyl) indole | [N+](=O)([O-])C1=C(C=CC=C1)N1C=CC2=CC=CC=C12 | C14H10N2O2
